US04664696
2-(4-Chlorophenyl)-3-cyclopropyl-2-methoxy-3-methyl-1-(1H-1,2,4-triazol-1-yl)-butane
To a suspension of 0.8 g NaH 80% in 25 ml DMF are added dropwise, at room temperature, a solution of 7.64 g 2-(4-chlorophenyl)-3-cyclopropyl-3-methyl-1-(1H-1,2,4-triazol-1-yl)-butan-2-ol in 50 ml DMF. The reaction is stirred at 40° for 30 minutes. Then are added dropwise, at 50°, 3.76 g CH3I. The mixture is stirred for 18 hours at 20°, then poured into one liter of water and extracted with CH2Cl2. The organic phases are washed with water, dried over MgSO4 and concentrated by continuous flask evaporation. The title compound is then obtained by chromatography of the residue on silica gel (mobile phase diethylether/triethylamine 10:2) in the form of white crystals, m.p. 87°-89°.

reactant | NaH | 0.8 g | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-3-cyclopropyl-3-methyl-1-(1H-1,2,4-triazol-1-yl)-butan-2-ol | 7.64 g | ClC1=CC=C(C=C1)C(CN1N=CN=C1)(C(C)(C)C1CC1)O | C16H20ClN3O
reactant | CH3I | 3.76 g | CI | CH3I
reactant | water | one liter | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(4-Chlorophenyl)-3-cyclopropyl-2-methoxy-3-methyl-1-(1H-1,2,4-triazol-1-yl)-butane | ClC1=CC=C(C=C1)C(CN1N=CN=C1)(C(C)(C)C1CC1)OC | C17H22ClN3O
